US08877926B2
A suspension of (S)-2-tert-butoxycarbonylamino-3-(phenyl-pyrimidin-2-ylamino)-propanoic acid (11.9 g, 33.2 mmol, >99.9% ee) in acetonitrile (36 ml) is admixed at −15° C. with a solution of 1,1′-carbonyldiimidazole (8.36 g, 51.6 mmol) in acetonitrile (125 ml), and the reaction mixture is stirred for 2 h at this temperature. Ammonia (4.0 g, 222 mmol) is then introduced, and the mixture is stirred for further 1 h and then adjUsted to pH 4.5 Using 2N sulfuric acid. Acetonitrile is distilled off, and the precipitated solid is filtered off with suction and dried to give (S)-2-tert-butoxycarbonylamino-3-(phenyl-pyrimidin-2-ylamino)-propanoic acid amide (11.3 g, 95%, >99.9% ee) as a colorless solid.

reactant | (S)-2-tert-butoxycarbonylamino-3-(phenyl-pyrimidin-2-ylamino)-propanoic acid | 33.2 mmol, 11.9 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CN(C1=NC=CC=N1)C1=CC=CC=C1 | C18H22N4O4
reactant | 1,1′-carbonyldiimidazole | 51.6 mmol, 8.36 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | Ammonia | 222 mmol, 4.0 g | N | H3N
reactant | sulfuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | acetonitrile | 36 ml | C(C)#N | C2H3N
solvent | acetonitrile | 125 ml | C(C)#N | C2H3N
product | (S)-2-tert-butoxycarbonylamino-3-(phenyl-pyrimidin-2-ylamino)-propanoic acid amide | 11.3 g, 95% | C(C)(C)(C)OC(=O)N[C@H](C(=O)N)CN(C1=NC=CC=N1)C1=CC=CC=C1 | C18H23N5O3
